US09029531B2
Step B: methyl 2-(5-hydroxypyridin-2-yl)acetate
To the stirred solution of methyl 2-(5-((tert-butyldimethylsilyl)oxy)pyridin-2-yl)acetate (1 g, 3.5 mmol) in THF was added TBAF (1M, 3.5 ml) at room temperature. The whole mixture was stirred at room temperature overnight. It was evaporated and extracted with EtOAc, the organic layer was washed with water, evaporated and purified by a standard method.

reactant | methyl 2-(5-((tert-butyldimethylsilyl)oxy)pyridin-2-yl)acetate | 3.5 mmol, 1 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=NC1)CC(=O)OC | C14H23NO3Si
reactant | TBAF | 1M, 3.5 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | methyl 2-(5-hydroxypyridin-2-yl)acetate | OC=1C=CC(=NC1)CC(=O)OC | C8H9NO3
